US04618677
The procedure described in Example 2 was followed, using 1.3 g of 2-methoxyphenyl isocyanate, 3.0 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride, 0.9 g of triethylamine and 50 ml of methylene chloride, to give 0.9 g (20% of theory) of N-(2-methoxyphenyl)-S-{3-[4-(chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride sesquihydrate as an off-white crystalline solid, M.p. 238°-240° C.

reactant | 2-methoxyphenyl isocyanate | 1.3 g | COC1=C(C=CC=C1)N=C=O | C8H7NO2
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride | 3.0 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(2-methoxyphenyl)-S-{3-[4-(chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride sesquihydrate | 0.9 g, 20% | O.Cl.Cl.COC1=C(C=CC=C1)NC(O)=SCCCN1CCN(CC1)C(C1=CC=CC=C1)Cl.O.O.COC1=C(C=CC=C1)NC(O)=SCCCN1CCN(CC1)C(C1=CC=CC=C1)Cl.Cl.Cl | InChI=1S/2C22H30ClN3O2S.4ClH.3H2O/c2*1-28-20-11-6-5-10-19(20)24-22(27)29-17-7-12-25-13-15-26(16-14-25)21(23)18-8-3-2-4-9-18;;;;;;;/h2*2-6,8-11,21,24,27,29H,7,12-17H2,1H3;4*1H;3*1H2
